US05962685
Synthesis of 4-ethoxycarbonyl-5-(2-(4,6-dimethoxypyrimidine-2-ylthio) phenyl)oxazole (Compound No. 3-12)
2 g (4,6-dimethoxypyrimidine-2-ylthio)benzoic acid was dissolved in THF, and the solution was added while stirring with 1.22 g N,N'-carbonyldiimidazole at room temperature. The mixture was then stirred for 50 min. at 40-50° C. The solution reacted was fed dropwise while stirring into THF solution of 1.55 g isocyanoethyl acetate at -5° C., immediately after dropping of 2 g DBU at -15° C., and the resulting solution was stirred for two nights at room temperature. After completing the reaction, the solution reacted was poured into ice water, stirred for 30 min. and then extracted with a mixed-solvent consisting of ether and ethyl acetate. The organic layer obtained was washed with water and saturated saline solution in turn and was then dried by using anhydrous magnesium sulfate, and then, the solvent used was removed by distillation under reduced pressure. The residue obtained was purified by using silica gel column chromatography, affording the objective substance in an amount of 1.36 g.

reactant | (4,6-dimethoxypyrimidine-2-ylthio)benzoic acid | 2 g | COC1=NC(=NC(=C1)OC)SC1=C(C(=O)O)C=CC=C1 | C13H12N2O4S
reactant | isocyanoethyl acetate | 1.55 g | C(C)(=O)OCC[N+]#[C-] | C5H7NO2
reactant | DBU | 2 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | THF | C1CCOC1 | C4H8O
product | 4-ethoxycarbonyl-5-(2-(4,6-dimethoxypyrimidine-2-ylthio) phenyl)oxazole | C(C)OC(=O)C=1N=COC1C1=C(C=CC=C1)SC1=NC(=CC(=N1)OC)OC | C18H17N3O5S
